US09260376B2
Synthesis of 4-{[(1′S,2′S)-1′-hydroxy-1′,3′-dihydro-1H,2′H-2,2′-biinden-2′-yl]methyl}-N,N-dimethylbenzamide (23)
To a solution of 4-(((1S,2S)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid (100 mg, 0.26 mmol), Et3N (157 mg, 1.56 mmol) and dimethyl amine (0.33 mL, 2.0 M solution in THF, 0.65 mmol) in DCM (5 mL), was added T3P (0.33 mL, 50 wt % solution in ethyl acetate, 0.52 mmol) and then stirred at room temperature for 12 h. The reaction mixture was quenched with water (25 mL) and extracted with DCM (3×25 mL). The organic layer was washed with brine (25 mL), dried over anhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified by CombiFlash using 20% ethyl acetate in chloroform as an eluent to yield 80 mg (75%) of the title compound as an off white solid.

reactant | 4-(((1S,2S)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid | 0.26 mmol, 100 mg | O[C@H]1[C@@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)O)C=C1 | C26H22O3
reactant | Et3N | 1.56 mmol, 157 mg | CCN(CC)CC | C6H15N
reactant | dimethyl amine | 0.65 mmol, 2.0 M, 0.33 mL | CNC | C2H7N
reactant | T3P | 0.52 mmol, 0.33 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-{[(1′S,2′S)-1′-hydroxy-1′,3′-dihydro-1H,2′H-2,2′-biinden-2′-yl]methyl}-N,N-dimethylbenzamide | 80 mg, 75% | O[C@H]1[C@@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)N(C)C)C=C1 | C28H27NO2
